US07790770B2
A solution of acetic anhydride (10 mL, 106 mmol) and formic acid (6 mL, 159 mmol) was heated at 60° C. for 3 h, then cooled to rt. An aliquot of the resulting solution (0.623 mL) was added to a solution of (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine prepared as described in Procedure 3, 4, 5 and 6 (83 mg, 0.2 mmol) in DCE (1 mL). The reaction mixture was stirred at rt for 1.5 h, then concentrated under reduced pressure to yield a clear oil. The resulting oil was dissolved in DCM and purified by ISCO chromatography (12 g) with 0-30% EtOAc in hexane to yield (R)—N-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)formamide as white solid (72 mg, 81% yield). LCMS: RT=2.02 min [M−NHCOH] 409.1 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm). At 0° C. to a solution of (R)—N-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)formamide (72 mg, 0.16 mmol) in DCM (2 mL) was added triethylamine (0.06 mL, 0.43 mmol) and POCl3 (0.016 mL, 0.18 mmol). The reaction mixture was stirred at rt overnight, then diluted with EtOAc (15 mL). The organic layer was washed with sat. NaHCO3 and sat. NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by ISCO chromatography (12 g) with 0-30% EtOAc in hexane to yield (R)-1-fluoro-3-(1-(4-fluorophenyl)-1-isocyano-2-phenylethyl)-5-(1,1,2,2-tetrafluoroethoxy)benzene as a white solid (60 mg, 87% yield). LCMS: RT=2.10 min [M−NC] 409.1 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm). 1H NMR (400 MHz, CDCl3) δ ppm 3.56-3.65 (m, 2H), 5.74-6.01 (m, 1H), 6.84 (d, J=7.03 Hz, 2H), 6.94 (d, J=7.03 Hz, 3H), 7.04-7.10 (m, 2H), 7.16-7.26 (m, 3H), 7.32 (dd, J=9.01, 5.05 Hz, 2H).

reactant | acetic anhydride | 106 mmol, 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 159 mmol, 6 mL | C(=O)O | CH2O2
reactant | (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethanamine | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@](CC1=CC=CC=C1)(N)C1=CC=C(C=C1)F | C22H17F6NO
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)—N-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)formamide | 72 mg, 81% yield | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)NC=O | C23H17F6NO2
